data/mechanisms/records/IMS8-EQ8.39.json
{"mechanism_id": "IMS8-EQ8.39", "species": [{"species_id": "n_propyl_cation", "mapped_smiles": "[CH2+:1][CH:2]([1H:8])[CH3:3]", "role": "precursor_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "isopropyl_cation", "mapped_smiles": "[CH2:1]([1H:8])[CH+:2][CH3:3]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "n_propyl_radical_spectator", "mapped_smiles": "[CH2:4][CH2:5][CH3:13]", "role": "spectator", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["n_propyl_cation", "n_propyl_radical_spectator"]}, {"state_id": "state_products", "species_ids": ["isopropyl_cation", "n_propyl_radical_spectator"]}], "steps": [{"step_id": "step_hydride_shift", "from_state": "state_precursor", "to_state": "state_products", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [2, 8]}, "target": {"type": "bond", "atom_maps": [1, 8]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_hydride_shift", "support_type": "textbook_proposed", "locator": {"page": 170, "equation": "8.39", "section": "8.2 (random rearrangements of alkyl ions)"}, "confidence": 0.6, "curator_note": "Generic scheme (R, R') instantiated with R = R' = CH3: the primary n-propyl cation CH3-CH2-CH2(+) isomerizes to the secondary isopropyl cation CH3-CH(+)-CH3 by a 1,2-hydride shift, while the .CH2CH2R' fragment (here .CH2CH2CH3, n-propyl radical) is a NET SPECTATOR -- it is drawn associated to the ion throughout but is identical on both sides of the net reaction. Book draws 0 electron-pushing arcs: equation 8.39 links four structures with plain reaction arrows and dotted (....) non-covalent associations only. The single encoded move (H8 bonding pair, electron_count 2, from the C2-H bond to a new C1-H bond) is curator-supplied to balance the net isomerization RCH2CH2(+) -> RCH(+)CH3 and is NOT drawn as an arrow on the page. DRAWN INTERMEDIATES DISCLOSED (encoding convention G): the book draws (i) a non-covalent ion-radical complex RCH2CH2(+)....CH2CH2R' and (ii) a proton-bridged, edge-protonated-cyclopropane-like intermediate R-CH(-CH2-)....H(+)....CH2CH2R'; both are non-covalent species that cannot be single mapped_smiles, so they are described here but not encoded as intermediate states. This is a 'random rearrangement' (Wendelboe et al. 1981) that scrambles H/C between the two fragments and makes alkyl-ion abundances ambiguous as indicators of structure."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": null, "activation_method": "electron ionization", "electron_energy_ev": 70.0, "precursor_mz": 43.0537, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_43", "species_id": "isopropyl_cation", "step_id": "step_hydride_shift", "observed_mz": 43.0537, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.5}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-26T00:00:00Z", "modified_at": "2026-07-26T00:00:00Z"}}
